US07354924B2
Preparation of Example 97, 1-(benzoyl)-4-[(4-methoxy-7-(2-hydroxyl-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine:
1-(benzoyl)-4-[(4-methoxy-7-(2-amino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine (15 mg) and NaNO2 (10 mg) was added into a H2SO4 solution (0.1 ml of concentrated H2SO4 diluted with 0.3 ml of water). The reaction was stirred at room temperature for one hour. Then, the reaction mixture was neutralized with a saturated Na2CO3 solution (10 ml). The solvents were concentrated to give a residue which was purified using a Shimadzu automated preparative HPLC System to provide 4.2 mg of the desired compound, 1-(benzoyl)-4-[(4-methoxy-7-(2-hydroxyl-pyrazin-5-yl)-6-azaindol-3-yl) oxoacetyl]piperazine. 1H NMR (500 MHz, CD3OD) δ8.55 (s, 1H), 8.44 (s, 1H), 8.31 (s, 1H), 8.01 (s, 1H), 7.49 (m, 5H), 4.12 (s, 3H), 3.84-3.64 (m, 8H). MS m/z: (M+H)+ Calc'd for C25H23N6O5: 487.17; found 487.22. HPLC retention time: 1.13 minutes (column A).

reactant | 1-(benzoyl)-4-[(4-methoxy-7-(2-amino-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 15 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(=NC1)N)=O | C25H23N7O4
reactant | NaNO2 | 10 mg | N(=O)[O-].[Na+]
reactant | H2SO4 | 0.1 ml | OS(=O)(=O)O | H2O4S
solvent | Na2CO3 | 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | 1-(benzoyl)-4-[(4-methoxy-7-(2-hydroxyl-pyrazin-5-yl)-6-azaindol-3-yl)-oxoacetyl]piperazine | 4.2 mg | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)C=1N=CC(=NC1)O)=O | C25H22N6O5
